US08492395B2
A solution of 2-amino-N-(2,6-dioxo-piperidin-3-yl)-4-fluoro-benzamide (0.9 g, 3.4 mmol) and trimethyl orthoformate (4 mL) and p-toluene sulfonic acid (110 mg) was heated to 160° C. in a microwave oven for 15 minutes. To the mixture, was added methanol (10 mL), and the mixture was stirred for 10 minutes. The suspension was filtered and washed with methanol to give 3-(7-fluoro-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as a white solid (650 mg, 70% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 2.45 min (96.1%); mp: 296-298° C.; 1H NMR (DMSO-d6) δ 2.13-2.19 (m, 1H, CHH), 2.63-2.73 (m, 2H, 2CHH), 2.82-2.93 (m, 1H, CHH), 5.50 (br, 1H, NCH), 7.46 (dt, J=3, 9 Hz, 1H, Ar), 7.53 (dd, J=3, 10 Hz, 1H, Ar), 8.22 (dd, J=6, 9 Hz, 1H, Ar), 8.42 (s, 1H, CH), 11.18 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.45, 30.88, 56.43, 112.3 (d, JC-F=22 Hz), 115.91 (d, JC-F=23 Hz), 118.38, 129.32 (d, JC-F=11 Hz), 148.71, 149.65 (d, JC-F=14 Hz), 159.00, 165.70 (d, JC-F=252 Hz), 169.76, 172.41; LCMS: MH=276; Anal Calcd for C13H10N3O3F: C, 56.73; H, 3.66; N, 15.27. Found: C. 56.39; H, 3.60; N, 15.16.

reactant | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-4-fluoro-benzamide | 3.4 mmol, 0.9 g | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C=CC(=C1)F | C12H12FN3O3
reactant | trimethyl orthoformate | 4 mL | C(OC)(OC)OC | C4H10O3
reactant | p-toluene sulfonic acid | 110 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 10 mL | CO | CH4O
product | 3-(7-fluoro-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 650 mg, 70% yield | FC1=CC=C2C(N(C=NC2=C1)C1C(NC(CC1)=O)=O)=O | C13H10FN3O3
